US07897762B2
Iron powder was added (5.2 g, 93 mmol) in portions to a solution of 1-tert-butyl-7-chloro-3-(4-fluoro-3-nitrophenyl)-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one (3.5 g, 9.3 mmol) and conc. HCl (0.35 mL, 4.2 mmol) in 10/1 EtOH/H2O (11 mL). The resulting mixture was stirred at 40° C. for 30 min. The reaction mixture was filtered and the filter cake was washed with EtOH. The ethanolic filtrate was concentrated and the residue was partitioned between EtOAc and H2O. The aqueous layer was extracted with EtOAc (3×80 mL). The combined organics were washed with brine, dried (Na2SO4), concentrated in vacuo and purified by chromatography on silica gel to afford 3-(3-amino-4-fluorophenyl)-1-tert-butyl-7-chloro-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one (2.0 g, 62% yield). 1HNMR (400 MHz, DMSO-d6): δ 8.20 (s, 1 H), 7.26 (s, 1 H), 6.92 (m, 1 H), 6.62 (m, 1 H), 6.34 (m, 1 H), 5.17 (s, 2 H), 4.50 (s, 2H), 1.55 (s, 9 H).

reactant | 1-tert-butyl-7-chloro-3-(4-fluoro-3-nitrophenyl)-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one | 9.3 mmol, 3.5 g | C(C)(C)(C)N1C(N(CC2=C1C=C(N=C2)Cl)C2=CC(=C(C=C2)F)[N+](=O)[O-])=O | C17H16ClFN4O3
reactant | HCl | 4.2 mmol, 0.35 mL | Cl | ClH
catalyst | Iron | [Fe] | Fe
solvent | EtOH H2O | 11 mL | CCO.O
product | 3-(3-amino-4-fluorophenyl)-1-tert-butyl-7-chloro-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one | 2.0 g, 62% yield | NC=1C=C(C=CC1F)N1C(N(C2=C(C1)C=NC(=C2)Cl)C(C)(C)C)=O | C17H18ClFN4O
